US04885022
Preparation of 1-ethyl-5-hydroxy-4-(4-methanesulfonyl-3-methoxymethyl-2-methylbenzoyl)pyrazole
1.12 g (0.01 mol) of 1-ethyl-5-hydroxypyrazole is dissolved in 30 ml of t-amyl alcohol, and then 2.59 g (0.01 mol) of 4-methanesulfonyl-3-methoxymethyl-2-methylbenzoic acid, 2.06 g (0.01 mol) of N,N'-dicyclohexylcarbodiimide and 0.69 g (0.005 mol) of anhydrous potassium carbonate were sequentially added thereto. The mixture was reacted at a temperature of from 80° to 90° C. for 8 hours under stirring. After completion of the reaction, t-amyl alcohol was distilled off under reduced pressure, and 30 ml of water was added to the residue to dissolve the soluble components. The mixture was subjected to filtration to separate out the insolubles. The aqueous solution thus obtained was washed with chloroform, and concentrated hydrochloric acid was added to adjust pH<1. The precipitated oil component was extracted with chloroform. The solvent was distilled off under reduced pressure, and the residue was purified with silica gel column chromatography (eluent: ethyl acetate/ethanol=9/1) to obtain 2.3 g of the desired product. (Yield: 66%, melting point: 116°-118° C.)

reactant | 1-ethyl-5-hydroxypyrazole | 0.01 mol, 1.12 g | C(C)N1N=CC=C1O | C5H8N2O
reactant | 4-methanesulfonyl-3-methoxymethyl-2-methylbenzoic acid | 0.01 mol, 2.59 g | CS(=O)(=O)C1=C(C(=C(C(=O)O)C=C1)C)COC | C11H14O5S
reactant | N,N'-dicyclohexylcarbodiimide | 0.01 mol, 2.06 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | potassium carbonate | 0.005 mol, 0.69 g | C([O-])([O-])=O.[K+].[K+]
solvent | t-amyl alcohol | 30 ml | C(C)(C)(CC)O | C5H12O
product | 1-ethyl-5-hydroxy-4-(4-methanesulfonyl-3-methoxymethyl-2-methylbenzoyl)pyrazole | 2.3 g, Yield: 66% | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)COC)C)=O | C16H20N2O5S
